US06982268B2
A mixture of 3-chloro-2-chloromethyl-5-methoxy-pyrazine (350 mg, 1.81 mmol), 2-fluoro-6-(1H-imidazol-2-yl)-pyridine (266 mg, 1.63 mmol) and K2CO3 (750 mg, 5.43 mmol) in DMF (10 mL) is stirred at 45° C. for 16 hours. On cooling, the reaction is quenched with saturated NH4Cl (3 mL) and extracted with DCM (3×20 mL). The combined organic layers are dried and solvent removed. PTLC (silica gel) separation (10% MeOH in DCM) gives 370 mg of 3-chloro-2-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-methoxy-pyrazine as an oil. 1H NMR (CDCl3) 8.08–8.14 (m, 1H), 7.98(s, 1H), 7.81 (dd, 1H), 7.20 (s, 1H), 7.07 (s, 1H), 6.80 (dd, 1H), 6.02 (s, 2H), 3.98 (s, 3H) F. Synthesis of 2-[2-(6-Fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-methoxy-3-pyridin-2-yl-pyrazine (Compound 7)

reactant | 3-chloro-2-chloromethyl-5-methoxy-pyrazine | 1.81 mmol, 350 mg | ClC=1C(=NC=C(N1)OC)CCl | C6H6Cl2N2O
reactant | 2-fluoro-6-(1H-imidazol-2-yl)-pyridine | 1.63 mmol, 266 mg | FC1=NC(=CC=C1)C=1NC=CN1 | C8H6FN3
reactant | K2CO3 | 5.43 mmol, 750 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-chloro-2-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-methoxy-pyrazine | 370 mg | ClC=1C(=NC=C(N1)OC)CN1C(=NC=C1)C1=NC(=CC=C1)F | C14H11ClFN5O
